US06004478
32 g of 1-bromo-4-(t-butyldimethylsiloxy)benzene was dropped in a mixture of 2.55 g of magnesium and 100 ml of THF, followed by refluxing for 3 hours to obtain a Grignard reagent. A solution of 31.4 g of 4-(4-n-propyl-4-methyl-4-silacyclohexyl)cyclohexanone in 50 ml of THF was added to the reagent. After refluxing for 2 hours, the reaction mixture was cooled down to room temperature and poured into an ammonium chloride aqueous solution and extracted with benzene. 1 g of p-toluenesulfonic acid was added to the resultant benzene solution. While refluxing, generated water was separated and removed. At the time when water was not distilled off at all, the mixture was cooled down to room temperature. The reaction mixture was poured into a sodium hydrogencarbonate aqueous solution. After ordinary washing, drying and concentration, the resulting residue was purified through silica gel chromatography to obtain 4-(4-(t-butyldimethylsiloxy)phenyl)-3-cyclohexenyl)-1-propyl-1-methyl-silacyclohexane. This product was dissolved in 200 ml of ethyl acetate and hydrogenated in the presence of a catalyst composed of 200 mg of palladium-carbon at a pressure of 0.5 MPa. After a theoretical amount of hydrogen had been consumed, the catalyst was removed by filtration and the resultant filtrate was concentrated. 100 ml of a THF solution of 1 mol/liter of tetrabutylammonium fluoride was added to the concentrate and agitated for 3 hours at room temperature. The reaction mixture was poured into 10% hydrochloric acid. After ordinary washing, drying and concentration, the residue was purified through silica gel chromatography.

reactant | 4-(4-n-propyl-4-methyl-4-silacyclohexyl)cyclohexanone | 31.4 g | C(CC)[Si]1(CCC(CC1)C1CCC(CC1)=O)C | C15H28OSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-propyl-1-methyl-silacyclohexane | C(CC)[Si]1(CCCCC1)C | C9H20Si
